US05929117
3-(3,4-Dimethoxyphenyl)-3-(2-furyl)acrylonitrile was prepared analogously to methyl 3,3-bis-(3',4'-dimethoxyphenyl)acrylate using 2-(3,4-dimethoxybenzoyl)furane (0.87 g, 4 mmol), diethylcyanomethylphosphonate (0.73 mL, 4.4 mmol) and lithium hexamethyldisilazide (3.4 mL, 4.4 mmol, 1.3M) with a reaction time of 3 hours at room temperature. The crude product was purified by chromatography (silica gel, 2% ethyl acetate/methylene chloride) to afford 0.78 g (76%) of a mixture of the E and Z isomers as an off white solid: mp 78-82° C.; 1H NMR (CDCl3) δ 7.68-7.73 (m, 2H), 7.16-6.75 (m, 7H), 6.54-6.39 (m, 3H), 5.87 (s, 1H), 5.30 (s, 1H), 3.93 (s, 3H), 3.93 (s, 3H), 3.91 (s, 3H), 3.88 (s, 3H); 13C NMR (CDCl3) δ 152.0, 150.7, 150.5, 150.4, 149.3, 148.8, 148.7, 148.7, 145.2, 145.0, 129.6, 126.7, 122.1, 121.6, 118.1, 118.0, 116.5, 115.6, 112.5, 112.1, 112.0, 111.5, 110.9, 110.8, 90.5, 90.2, 55.9, 55.9, 55.9, 55.8; Anal. Calcd for C15H13NO3. Theoretical: C, 70.58; H, 5.13; N, 5.49. Found: C, 70.61; H, 5.09; N, 5.18.

reactant | methyl 3,3-bis-(3',4'-dimethoxyphenyl)acrylate | COC=1C=C(C=CC1OC)C(=CC(=O)OC)C1=CC(=C(C=C1)OC)OC | C20H22O6
reactant | 2-(3,4-dimethoxybenzoyl)furane | 4 mmol, 0.87 g | COC=1C=C(C(=O)C=2OC=CC2)C=CC1OC | C13H12O4
reactant | diethylcyanomethylphosphonate | 4.4 mmol, 0.73 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium hexamethyldisilazide | 4.4 mmol, 1.3M, 3.4 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
product | 3-(3,4-Dimethoxyphenyl)-3-(2-furyl)acrylonitrile | COC=1C=C(C=CC1OC)C(=CC#N)C=1OC=CC1 | C15H13NO3
